US08012980B2
h) N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(2R)-2-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide
Methanesulfonyl chloride (0.55 mL) was added to a solution of 3-[2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-4-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-6-yl]-N-cyclopropyl-5-fluoro-4-methylbenzamide (Example 26 g, 3.65 g) and triethylamine (1.79 mL) in DCM (10 mL) at −20° C. After 30 min the solution was warmed to 0° C. and tert-butyl (3R)-3-methylpiperazine-1-carboxylate (2.58 g) was added. The reaction was stirred for 18 h at room temperature, evaporated and the residue purified (SiO2 chromatography, elution with 20 to 80% ethyl acetate in isohexane). Fractions containing product were evaporated, dissolved in THF (100 mL) and treated with 4 M HCl in dioxane (5 mL), stirred at room temperature for 60 h, evaporated to dryness and the residue purified (SiO2 chromatography, elution with 5 to 10% 7N NH3/methanol in DCM) to give the title compound (1.53 g) as a solid.

reactant | Methanesulfonyl chloride | 0.55 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-[2-(3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropyl)-4-(hydroxymethyl)-1-oxo-1,2-dihydroisoquinolin-6-yl]-N-cyclopropyl-5-fluoro-4-methylbenzamide | 26 g | [Si](C)(C)(C(C)(C)C)OCC(CN1C(C2=CC=C(C=C2C(=C1)CO)C=1C=C(C(=O)NC2CC2)C=C(C1C)F)=O)(C)C | C32H43FN2O4Si
reactant | triethylamine | 1.79 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl (3R)-3-methylpiperazine-1-carboxylate | 2.58 g | C[C@@H]1CN(CCN1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-Cyclopropyl-3-fluoro-5-[2-(3-hydroxy-2,2-dimethylpropyl)-4-{[(2R)-2-methylpiperazin-1-yl]methyl}-1-oxo-1,2-dihydroisoquinolin-6-yl]-4-methylbenzamide | 1.53 g | C1(CC1)NC(C1=CC(=C(C(=C1)C=1C=C2C(=CN(C(C2=CC1)=O)CC(CO)(C)C)CN1[C@@H](CNCC1)C)C)F)=O | C31H39FN4O3
